US05102877
To a solution of allyl (5R,6S)-3-(1-allyloxycarbonylpyrrolidin-3-yl)-6-[(1R)-1-t-butyldimethylsilyoxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (2.9 g) in tetrahydrofuran (30 ml) were added acetic acid (3.3 ml) and a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (28.7 ml) at 0° C. under nitrogen. After standing at ambient temperature for 7 hours and additionally at 5° C. for 14 hours, the reaction mixture was taken up into a mixture of ethyl acetate and water. After adjusting pH to around 7 with an aqueous sodium hydrogen carbonate, the organic layer was separated, washed in turn with water and brine, and dried over magnesium sulfate. Removal of the solvent gave a residue, which was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (1:2, V/V) to give allyl (5R,6S)-3-(1-allyloxycarbonylpyrrolidin-3-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.94 g).

reactant | allyl (5R,6S)-3-(1-allyloxycarbonylpyrrolidin-3-yl)-6-[(1R)-1-t-butyldimethylsilyoxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 2.9 g | C(C=C)OC(=O)N1CC(CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C | C26H40N2O6Si
reactant | acetic acid | 3.3 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 28.7 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl (5R,6S)-3-(1-allyloxycarbonylpyrrolidin-3-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.94 g | C(C=C)OC(=O)N1CC(CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C20H26N2O6
